US06521754B2
5-Bromo-2-methoxy-aniline
A solution of 4-bromo-2-nitro-anisole (7.7 g, 33.1 mmol), triethylamine (4.6 ml, 33.1 mmol) and Raney Nickel catalyst (4 g) was vigorously stirred in ethanol (300 ml) under an atmosphere of hydrogen for 1 h at 20° C. After this time the theoretical amount of hydrogen had been absorbed (2.5 1), so the catalyst was filtered off and the solvent evaporated to afford the title compound as a light yellow solid (7 g, 104% yield), MS: m/e=201 (M+).

reactant | 4-bromo-2-nitro-anisole | 33.1 mmol, 7.7 g | BrC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
reactant | triethylamine | 33.1 mmol, 4.6 ml | C(C)N(CC)CC | C6H15N
catalyst | Raney Nickel | 4 g | [Ni] | Ni
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 5-Bromo-2-methoxy-aniline | 7 g, 104% yield | BrC=1C=CC(=C(N)C1)OC | C7H8BrNO
